**********
* Copyright Intusoft 1989-1997
* All Rights Reserved
**********
**********
*SRC=RSUM;RSUM;Neural Networks;;
*SYM=RSUM
.SUBCKT RSUM 1 4 5 6 
*INTEGRATOR, GAIN -1/S
*IN 1
*OUT 4
*P1 5
*P2 6 
GX1 3 2 POLY(2) 3 2 6 0 0 0 0 0 10K 
R1 1 3 10K
R2 3 2 10K
E1 4 0 0 2 10000
C1 2 4 1 IC=0
R3 2 4 10K
C2 3 0 1 IC=0
GX2 1 3 POLY(2) 1 3 5 0 0 0 0 0 10K 
.ENDS
**********
*SRC=CELL;CELL;Neural Networks;;
*SYM=CELL
.SUBCKT CELL 1 2 11 3 
* 2 out
* 1 VJ
* 11 Vdel-in
* 3 Vdelout
RX2 2 0 1K
RX9 9 0 1K 
RX7 7 0 1K
RX8 8 0 1K
RX63 63 0 1K
RX12 12 0 1K
RX5 5 0 1K
RX6 6 0 1K
RX10 10 0 1K
RX3 3 0 1K
X5 8 7 2 DIVIDEA 
EX6 5 0 9 0 0 -1 
EX7 7 0 POLY(2) 6 0 8 0 0 1 1
V2 8 0 1
H1 9 0 VJ 1
VJ 1 0 
EX12 12 0 POLY(2) 63 0 2 0 0 0 0 0 1
EX14 10 0 POLY(2) 2 0 8 0 0 -1 1
H2 63 0 V6 1
V6 11 0 
EX26 3 0 POLY(2) 10 0 12 0 0 0 0 0 1
X4 5 6 EXPA
.ENDS
.SUBCKT EXPA 1 2
R 1 0 1K
E 3 0 1 0 .0258642
V 3 4
RD 4 0 1E8
D 4 0 DIODE
C1 4 0 .0025U IC=0
.MODEL DIODE D(IS=1U RS=10K )
I 0 4 -1U
H 2 0 V 1MEG
.ENDS
.SUBCKT DIVIDEA 1 2 4
* V4 = V1 / V2
R1 1 0 1MEG
R2 2 0 1MEG
R4 4 0 1MEG
G1 0 3 1 0 1
C1 3 0 .001 IC=0
G2 3 0 POLY(2) 2 0 3 0 0 0 0 0 1
R3 3 0 100
E1 4 0 3 0 1
.ENDS
**********
*SRC=AXON;AXON;Neural Networks;;
*SYM=AXON
.SUBCKT AXON 9 6 7 8 2 5 100 101 {W=.01}
*5 gain, hidden node
*2 weight, testpoint
*8 ibout, back prop out
*9 vaxon, voltage in
*6 iaxon, current out
*7 vdelin, back prop in 
*100 Phase1 SC clk
*101 Phase2 SC clk
** Z TRANSFORM UTD **
*XSUM 3 30 100 101 RSUM
ESUM 2 0 3 0 {W} 100
RESUM 2 0 10K
*Multiplier
EX3 3 0 POLY(3) 10 0 5 0 9 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 1
**----
RX3 3 0 1K
*RX2 2 0 1K
RX10 10 0 1K
*Summer
GA 9 6 POLY(2) 2 0 9 6 0 0 0 0 1
GB 0 8 10 0 1
E1 10 0 7 0 1 
.ENDS
**********
.SUBCKT AXON2OLD 9 6 7 8 5 {W=.01}
*5 gain
*8 idelut
*9 vaxon
*6 iaxon
*7 vdelin
*2 weight
** Z TRANSFORM UTD **
ETD1 30 0 2 0 1
RTI 30 0 1K
T1 30 0 1 0 Z0=1 TD=1
RTD1 1 0 1
**
RX3 3 0 1K
RX2 2 0 1K
RX10 10 0 1K
*Summer
EX7 2 0 POLY(2) 1 0 3 0 {W} 1 1
GA 9 6 POLY(2) 2 0 6 9 0 0 0 0 1
GB 0 8 POLY(2) 10 0 9 0 0 0 0 0 1
E1 10 0 7 0 1 
*Multiplier
EX3 3 0 POLY(2) 10 0 5 0 0 0 0 0 1
.ENDS
**********
*SRC=VTOIn;VTOIn;Neural Networks;;
*SYM=VTOI
.SUBCKT VTOIn 1 2 3
* I(3) = V(1) - V(2) ; vtoi name changed due to Mechatronics library conflict
G 0 3 POLY(2) 1 0 2 0 0 1 -1
.ENDS
**********
